US05236924
18.4 g of 4-benzylphenol was dissolved in 100 ml of carbon tetrachloride and thereto was added dropwise 10.85 g of t-butyl hypochlorite at -5°-0° C. with stirring. After stirring for 3 hours at room temperature, the reaction mixture was washed with a saturated aqueous sodium hydrogen-carbonate solution and then with water, then dried over anhydrous magnesium sulfate and thereafter, concentrated under reduced pressure. The resulting oily residue was chromatographed on a silica gel column (eluting solvent hexane : acetone=3 : 1 (v/v)) to obtain 20.6 g of 4-benzyl-2-chlorophenol.

reactant | 4-benzylphenol | 18.4 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
reactant | t-butyl hypochlorite | 10.85 g | ClOC(C)(C)C | C4H9ClO
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-benzyl-2-chlorophenol | 20.6 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)O)Cl | C13H11ClO
